data/mechanism_extracts/NatCatal/10.1038_s41929-023-01050-y_sup_1.json
{"doi": "10.1038_s41929-023-01050-y_sup_1", "journal": "NatCatal", "is_review": false, "rxn_class_summary": "Enantioselective electrochemical Rh-catalyzed dehydrogenation/conjugate addition of imidazolyl alkyl ketones with dienes (and Michael acceptors) via an α,β-unsaturated ketone (alkene) intermediate and Rh-enolate.", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic", "radical_polar_crossover", "anion_initiated"], "electrochemical_role": "Anodic oxidation (mediated by ferrocene) of the Rh-bound enolate/substrate drives α,β-dehydrogenation of the alkyl ketone to generate an electrophilic enone intermediate that is subsequently captured by a nucleophile (diene or enolate addition) under chiral Rh control.", "key_intermediates": [{"name": "(E)-α,β-unsaturated imidazolyl ketone (enone alkene intermediate 52)", "smiles": "O=C(/C=C/c1ccccc1)c1nccn1-c1ccccc1C", "role": "reactive"}, {"name": "Rh-bound enolate of substrate 1a", "smiles": null, "role": "transient"}, {"name": "α-carbon radical of ketone (post-SET)", "smiles": null, "role": "transient"}, {"name": "TEMPO adduct 53 (α-aminoxy ketone)", "smiles": "O=C(C(CC1=CC=CC=C1)ON1C(C)(C)CCCC1(C)C)c1nccn1-c1ccccc1C", "role": "off_pathway"}, {"name": "Ferrocenium (Fc+) mediator", "smiles": null, "role": "transient"}], "electron_flow": "Λ-RhS coordinates the imidazolyl ketone and forms a Rh-enolate (assisted by DABCO); ferrocene is oxidized at the RVC anode to ferrocenium, which performs SET on the Rh-enolate to give an α-carbon radical that loses a second electron/proton to deliver the α,β-unsaturated ketone (52). This electrophilic enone is then trapped enantioselectively by a Rh-enolate of a second ketone or by a diene/Michael acceptor; protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "Anodic α,β-dehydrogenation of the Rh-enolate to give the enone intermediate (formation of 52)", "probe_reagents": [{"name": "2,3-dimethyl-1,3-butadiene (2a)", "smiles": "CC(=C)C(C)=C", "purpose": "intermediate_trap", "observation": "Omitted under standard conditions: the alkene intermediate 52 was isolated in 72% yield, confirming enone forms before diene engagement."}, {"name": "no light control (without irradiation)", "smiles": null, "purpose": "other", "observation": "Reaction without light still delivers 52 in 71% yield, indicating the dehydrogenation step is electrochemical, not photochemical."}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "α-aminoxy adduct 53 isolated in 8% (23% ee) along with 86% of enone 52, supporting a transient α-carbon radical intermediate during dehydrogenation."}, {"name": "phenyl vinyl ketone (Michael acceptor)", "smiles": "O=C(C=C)c1ccccc1", "purpose": "intermediate_trap", "observation": "Under non-electrochemical conditions with Λ-RhS/DABCO, conjugate addition product 55 forms in 96% yield, 97% ee, demonstrating that the Rh-enolate is the nucleophilic species responsible for enantiocontrol."}], "evidence_types_used": ["intermediate_trap_TEMPO", "isolation_of_intermediate", "stoichiometric_intermediate", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Two key mechanistic conclusions: (i) the catalytic cycle proceeds through an isolable α,β-unsaturated ketone (52) generated by anodic dehydrogenation rather than by direct radical coupling, and (ii) enantioselectivity arises in the Rh-enolate Michael addition step (demonstrated by the non-electrochemical enolate trapping with phenyl vinyl ketone giving 97% ee). The low ee (23%) of the TEMPO adduct 53 suggests TEMPO traps a relatively free α-radical off the chiral Rh, consistent with an off-pathway/secondary capture rather than the productive enantiodetermining step."}
